US07932271B2
t-Butyl[5-bromo-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]carbamate
Under an argon atmosphere, diphenylphosphoryl azide (131 μl, 0.613 mmol) and triethylamine (122 μl, 0.875 mmol) were added to a solution of 5-bromo-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]picolinic acid (220 mg, 0.438 mmol) in a mixture of t-butanol (5 ml) and toluene (5 ml). The reaction mixture was stirred for 14 hours under heating and refluxing. After cooling, ethyl acetate was added to the residue. The resulting mixture was washed sequentially with a saturated aqueous solution of sodium bicarbonate and brine. The organic layer thus obtained was dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=4:1 eluate was concentrated under reduced pressure to give the title compound (128 mg, 0.223 mmol, 51%) as a white powder.

reactant | diphenylphosphoryl azide | 0.613 mmol, 131 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.875 mmol, 122 μl | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]picolinic acid | 0.438 mmol, 220 mg | BrC=1C(=CC(=NC1)C(=O)O)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C19H11BrClF2NO4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | t-butanol | 5 ml | C(C)(C)(C)O | C4H10O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | t-Butyl[5-bromo-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]carbamate | 0.223 mmol, 128 mg, 51% | C(C)(C)(C)OC(NC1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)Br)=O | C23H20BrClF2N2O4S
